US04908379
Synthesis of 2,5-dimethyl-3-ethyl-6-[4'-(4"-fluoro-benzyloxy)benzyloxy]-4(3H)-pyrimidinone (Synthesis of Compound No. 68)
Sodium hydride (55% in mineral oil) (0.23 g) was suspended in 10 ml of dioxane, and then 1.24 g of 4-(4'-fluorobenzyloxy)benzyl alcohol was added thereto. The resulting mixture was stirred for one hour at room temperature, then incorporated with 1.00 g of 6-chloro-2,5-dimethyl-3-ethyl-4(3H)-pyrimidinone and stirred for 15 hours. The resulting solution was poured into water, and the resulting crystals were filtered off and recrystallized from a benzene-hexane mixture to give 1.83 g of the intended product.

reactant | Sodium hydride | 0.23 g | [H-].[Na+]
reactant | 4-(4'-fluorobenzyloxy)benzyl alcohol | 1.24 g | FC1=CC=C(COC2=CC=C(CO)C=C2)C=C1 | C14H13FO2
reactant | 6-chloro-2,5-dimethyl-3-ethyl-4(3H)-pyrimidinone | 1.00 g | ClC1=C(C(N(C(=N1)C)CC)=O)C | C8H11ClN2O
reactant | water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2,5-dimethyl-3-ethyl-6-[4'-(4"-fluoro-benzyloxy)benzyloxy]-4(3H)-pyrimidinone | 1.83 g | CC1=NC(=C(C(N1CC)=O)C)OCC1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C22H23FN2O3
